US07659421B2
Step 1: Preparation of 3-(4-Bromo-3-methylphenyl)pentan-3-ol
In a 4-liter SVL reactor equipped with a magnetic stirrer, a thermometer and a dropping funnel, introduce under nitrogen 198.7 g (0.867 mol) of methyl 4-bromo-3-methylbenzoate in solution in 1 liter of tetrahydrofuran. Cool the mixture to −5° C. with the aid of a bath of ice and sodium chloride. Add 636 cm3 of a 3M solution of ethylmagnesium bromide in diethyl ether, then allow the reaction temperature to increase to ambient temperature. After four hours of reaction, hydrolyze the reaction mixture with 2 liters of a 1 N hydrochloric acid solution. After decanting and separation, extract the aqueous phase with 0.5 liter of ethyl acetate. Wash the combined organic phases with 0.4 liter of water (3×). After drying over sodium sulfate, the product obtained after evaporation of the solvents is purified by chromatography on silica gel (heptane/ethyl acetate=95/5). This gives 150.2 g of 3-(4-bromo-3-methylphenyl)pentan-3-ol in the form of a colorless oil (Yield=67%)

reactant | methyl 4-bromo-3-methylbenzoate | BrC1=C(C=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | sodium chloride | [Cl-].[Na+]
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(4-Bromo-3-methylphenyl)pentan-3-ol | Yield=67% | BrC1=C(C=C(C=C1)C(CC)(CC)O)C | C12H17BrO
